US08049016B2
To a suspension of ethyl 2-(2-aminophenylamino)-4-methylthiazole-5-carboxylate (0.24 g, 0.87 mmol) in dichloromethane (12 mL) was added phosgene solution (purum, ˜20% in toluene, 0.48 mL, 0.91 mmol) at ambient temperature. The mixture was stirred at ambient temperature for 16 h followed by the addition of saturated aqueous sodium bicarbonate solution. The mixture was extracted with dichloromethane (30 mL), washed with water and brine, dried over sodium sulfate, filtered, concentrated to small volume, and triturated with diethyl ether (5 mL) to precipitate the product. The solid was collected by filtration, washed with water (3×5 mL) and hexanes (5 mL), and dried in vacuo to afford ethyl 4-methyl-2-(2-oxo-2,3-dihydro-1H-benzo[d]imidazol-1-yl)thiazole-5-carboxylate as a white solid (0.21 g, 80% yield): MS (ES+) m/z 304.2 (M+1).

reactant | ethyl 2-(2-aminophenylamino)-4-methylthiazole-5-carboxylate | 0.87 mmol, 0.24 g | NC1=C(C=CC=C1)NC=1SC(=C(N1)C)C(=O)OCC | C13H15N3O2S
reactant | phosgene | 0.91 mmol, 0.48 mL | C(=O)(Cl)Cl | CCl2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | ethyl 4-methyl-2-(2-oxo-2,3-dihydro-1H-benzo[d]imidazol-1-yl)thiazole-5-carboxylate | 0.21 g, 80% yield | CC=1N=C(SC1C(=O)OCC)N1C(NC2=C1C=CC=C2)=O | C14H13N3O3S
